US06306886B1
(−)-Isobutyl 2-[3-(4-Cyanophenyl)-4,5-dihydro-5-isoxazolyl]acetate (III).
To a solution of DMF (262.0 L), 4-cyanobenzaldoxime (46 kg, 342.1 mol), and N-chlorosuccinimide (54 kg, 389.4 mol) was added isobutyl vinylacetate (95 kg. 665.7 mol). The solution was cooled to 2-6° C., and triethylamine (40 kg. 388.6 mol) was slowly added over a period of 4 h. The reaction was stirred at the same temperature for an addition 1 h. Water (330.0 L) and hydrochloric acid (1 N, 49 L) were added. The crude product was collected by filtration, washed with water (555.0 L), and redissolved in toluene (500.0 L, 40° C.). The organic layer was washed with water (291.0 L) and dried by azeotropic distillation (removing about 250 L of toluene). Heptane (300.0 L) was added, and the reaction was cooled at 0-5° C. for 3 h. The product was collected by filtration and washed with toluene/heptane (150.0 L, 1/2 ratio). The product was dried under vacuum at 55-60° C. to constant weight: 81.8 kg, 90% yield, mp 98-100° C.; 1H NMR (CDCl3) ∂ 0.96 (6H), 1.96 (1H), 2.70 (1H), 2.92 (1H), 3.15 (1H), 3.56 (1H), 3.90 (2H), 5.20 (1H), 7.70 (2H), 7.80 (2H). Anal. Calcd. for C16H18N2O3: C, 67.12; H, 6.34; N. 9.78. Found: C, 67.06; H, 6.20; N, 9.76.

reactant | 4-cyanobenzaldoxime | 342.1 mol, 46 kg | C(#N)C1=CC=C(C=NO)C=C1 | C8H6N2O
reactant | N-chlorosuccinimide | 389.4 mol, 54 kg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | isobutyl vinylacetate | 665.7 mol, 95 kg | C(=C)CC(=O)OCC(C)C | C8H14O2
reactant | triethylamine | 388.6 mol, 40 kg | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 N, 49 L | Cl | ClH
solvent | Water | 330.0 L | O | H2O
solvent | DMF | 262.0 L | CN(C)C=O | C3H7NO
product | (−)-Isobutyl 2-[3-(4-Cyanophenyl)-4,5-dihydro-5-isoxazolyl]acetate | 90% yield | C(#N)C1=CC=C(C=C1)C1=NOC(C1)CC(=O)OCC(C)C | C16H18N2O3
